US07960369B2
methyl 2′-methyl-6′-propylbiphenyl-3-carboxylate
To a suspension (21 mL) of ethyltriphenylphosphonium bromide (1.55 g, 4.13 mmol) in tetrahydrofuran was added sodium hydride (0.14 g, 3.58 mmol) at room temperature with stirring, and the mixture was stirred at the same temperature for 20 min. A solution (20 mL) of methyl 2′-formyl-6′-methylbiphenyl-3-carboxylate (0.70 g, 2.75 mmol) in tetrahydrofuran was added and the mixture was stirred at 70° C. for 3 hrs. The reaction mixture was cooled, diluted with ethyl acetate, washed with water and saturated brine, dried, and concentrated under reduced pressure. Then a mixture of the obtained residue, 10% Pd carbon (0.1 g) and methanol (14 mL) was stirred under a hydrogen atmosphere for 2 hrs. The catalyst was filtered off, and the filtrate was concentrated under reduced pressure. The residue was purified by silica gel column chromatography (hexane-hexane/ethyl acetate=4/1) to give the title compound (0.63 g, yield 85%) as a colorless oil.

reactant | sodium hydride | 3.58 mmol, 0.14 g | [H-].[Na+]
reactant | methyl 2′-formyl-6′-methylbiphenyl-3-carboxylate | 2.75 mmol, 20 mL, 0.70 g | C(=O)C1=C(C(=CC=C1)C)C1=CC(=CC=C1)C(=O)OC | C16H14O3
reactant | tetrahydrofuran | O1CCCC1 | C4H8O
catalyst | ethyltriphenylphosphonium bromide | 4.13 mmol, 21 mL, 1.55 g | [Br-].C(C)[P+](C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | methyl 2′-methyl-6′-propylbiphenyl-3-carboxylate | 0.63 g, yield 85% | CC1=C(C(=CC=C1)CCC)C1=CC(=CC=C1)C(=O)OC | C18H20O2
